US05688795
A mixture of 2-nitrophenol (6.01 g, 43.2 mmol) and sodium hydroxide (8.6 g, 216 mmol) in 50 mL of dioxane and 50 mL of water was heated to 70° C. and chlorodifluoromethane gas was introduced. The mixture was diluted with water and extracted with diethyl ether. The organic phase was washed with aqueous sodium hydroxide and then brine, dried (MgSO4) and concentrated to give 1-difluoromethoxy-2-nitrobenzene (8.21 g, 43.4 mmol) as an oil.

reactant | 2-nitrophenol | 43.2 mmol, 6.01 g | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | sodium hydroxide | 216 mmol, 8.6 g | [OH-].[Na+]
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
product | 1-difluoromethoxy-2-nitrobenzene | 43.4 mmol, 8.21 g | FC(OC1=C(C=CC=C1)[N+](=O)[O-])F | C7H5F2NO3
